US05047410
1-(1'-Iminoethyl)-4-hydroxypiperidine hydrochloride
1.46 g of ethyl acetoimidate hydrochloride was added to a solution of 4-hydroxy-piperidine (1.0 g) in 10 ml of absolute ethanol. The resulting mixture was stirred at room temperature for 6 hours and then allowed to stand for 7 days. After concentration to dryness the obtained oil spontaneously solidified. After crystallization from acetone 0.7 g of the desired product were obtained.

reactant | ethyl acetoimidate hydrochloride | 1.46 g | Cl.C(C)(OCC)=N
reactant | 4-hydroxy-piperidine | 1.0 g | OC1CCNCC1 | C5H11NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(1'-Iminoethyl)-4-hydroxypiperidine hydrochloride | Cl.N=C(C)N1CCC(CC1)O | InChI=1S/C7H14N2O.ClH/c1-6(8)9-4-2-7(10)3-5-9;/h7-8,10H,2-5H2,1H3;1H
